US07745475B2
3-[2,5-Difluoro-4-(methylsulfonyl)phenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide
Caesium carbonate (523 mg) was added to a solution of 3-hydroxy-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide (234 mg) and 1,2,4-trifluoro-5-(methylsulfonyl)benzene (169 mg) in acetonitrile (5 mL) was added. The mixture was heated in a sealed microwave vial to 160° C. for 7000 seconds and left to cool before being filtered and washed with acetonitrile (10 mL). The filtrate was evaporated in vacuo and chromatographed on silica, eluting with 0 to 10% methanol in ethyl acetate. This gave incomplete resolution so the mixture was purified by preparatory HPLC using a gradient of 5 to 95% acetonitrile in water to afford the desired compound (5.1 mg)

reactant | Caesium carbonate | 523 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-hydroxy-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 234 mg | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H](CO)C | C14H17N3O4
reactant | 1,2,4-trifluoro-5-(methylsulfonyl)benzene | 169 mg | FC1=C(C=C(C(=C1)S(=O)(=O)C)F)F | C7H5F3O2S
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-[2,5-Difluoro-4-(methylsulfonyl)phenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 5.1 mg | FC1=C(OC=2C=C(C(=O)NC3=NN(C=C3)C)C=C(C2)O[C@H](CO)C)C=C(C(=C1)S(=O)(=O)C)F | C21H21F2N3O6S
